US07687491B2
(5c) 1-({5-[5-(4-Phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid
The title compound (69 mg) was synthesized in a yield of 80% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 3 (3e) using ethyl 1-({5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate (90 mg, 0.20 mmol) that was obtained in Example 5 (5b) and a 1N aqueous solution of sodium hydroxide (0.60 ml, 0.60 mmol).

reactant | ethyl 1-({5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | 0.20 mmol, 90 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(S1)CN1CC(C1)C(=O)OCC | C25H23N3O4S
reactant | sodium hydroxide | 0.60 mmol, 0.60 ml | [OH-].[Na+]
product | 1-({5-[5-(4-Phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid | 69 mg, yield of 80% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(S1)CN1CC(C1)C(=O)O | C23H19N3O4S
